US07700774B2
Step (vii): Preparation of 2-Ethyl-6,8-dimethyl-4-oxo-3,4-dihydro-2H-[1,7]naphthyridine-1-carboxylic acid ethyl ester
This compound can be obtained by reacting a suspension of K2CO3 (3-5 eqv) in THF with a solution of 2-ethyl-6,8-dimethyl-2,3-dihydro-1H-[1,7]naphthyridin-4-one in THF and ethyl chloroformate (1.5 to 2 eqv), typically at a temperature from about RT to about 50° C., followed by a typical workup procedure.

reactant | K2CO3 | 3-5 eqv | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-ethyl-6,8-dimethyl-2,3-dihydro-1H-[1,7]naphthyridin-4-one | C(C)C1NC2=C(N=C(C=C2C(C1)=O)C)C | C12H16N2O
reactant | ethyl chloroformate | 1.5 to 2 eqv | ClC(=O)OCC | C3H5ClO2
solvent | THF | C1CCOC1 | C4H8O
product | 2-Ethyl-6,8-dimethyl-4-oxo-3,4-dihydro-2H-[1,7]naphthyridine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C(CC(C2=CC(=NC(=C12)C)C)=O)CC | C15H20N2O3
